US09382237B2
2-cyano-3-(methylthio)-3-((4-nitrophenyl)amino)acrylamide was then suspended in 100 mL of ethanol and hydrazine hydrate (5.153 mL, 2.00 eq.) was added drop wise to the reaction. The reaction was then heated at 75° C. until the starting material was no longer present as confirmed via HPLC. Once starting material was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide as an off white to yellow powder as product. Product was allowed to dry under vacuum for 1 hr.

reactant | 2-cyano-3-(methylthio)-3-((4-nitrophenyl)amino)acrylamide | C(#N)C(C(=O)N)=C(NC1=CC=C(C=C1)[N+](=O)[O-])SC | C11H10N4O3S
reactant | hydrazine hydrate | 5.153 mL, 2.00 eq. | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-amino-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1)NC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N | C10H10N6O3
